US08133909B2
Acetic acid (S)-phenyl-{quinolin-3-yl-[2-(4-trifluoromethyl-phenyl)-ethyl]-carbamoyl}-methyl ester
To a solution of 0.32 mmol Quinolin-3-yl-[2-(4-trifluoromethyl-phenyl)-ethyl]-amine in dry CH2Cl2 was added 0.35 mmol (+)-O-Acetyl-L-Mandelic Acid, 0.35 mmol 2-chloro-1-methylpyridinium iodide and 0.63 mmol of Et3N and the reaction mixture stirred for 16 h at rt. The solution was washed once with a saturated NaHCO3 solution and once with water. The washings were extracted once with dichloromethane. The combined organic layers were dried over Na2SO4, filtered and concentrated in vacuo. The crude oil (155 mg) was used directly for the next step.

reactant | Quinolin-3-yl-[2-(4-trifluoromethyl-phenyl)-ethyl]-amine | 0.32 mmol | N1=CC(=CC2=CC=CC=C12)NCCC1=CC=C(C=C1)C(F)(F)F | C18H15F3N2
reactant | (+)-O-Acetyl-L-Mandelic Acid | 0.35 mmol | C(C)(=O)OC([C@@H](O)C1=CC=CC=C1)=O | C10H10O4
reactant | 2-chloro-1-methylpyridinium iodide | 0.35 mmol | [I-].ClC1=[N+](C=CC=C1)C
reactant | Et3N | 0.63 mmol | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | Acetic acid (S)-phenyl-{quinolin-3-yl-[2-(4-trifluoromethyl-phenyl)-ethyl]-carbamoyl}-methyl ester | C1(=CC=CC=C1)[C@@H](C(N(CCC1=CC=C(C=C1)C(F)(F)F)C=1C=NC2=CC=CC=C2C1)=O)OC(C)=O | C28H23F3N2O3
